US05015640
20 ml of 2-methoxyethanol are treated portionwise at 60° C. with 0.23 g of sodium. After 30 minutes, 2.2 g of 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile are added and the mixture is stirred at 80° C. for 1 hour. Subsequently, the 2-methoxyethanol is distilled off at reduced pressure. The residue is poured on to ice-water and the resulting mixture is extracted twice with methylene chloride. The combined extracts are washed twice with water, dried over anhydrous sodium sulfate and evaporated. The residue is chromatographed on silica gel with ethyl acetate and increasing amounts of ethanol as the eluent, and there is obtained 2-methoxyethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e:M+ 296 (6), 237 (45), 194 (100), 178 (74), 165 (49).

reactant | sodium | 0.23 g | [Na] | Na
reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | 2.2 g | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | 2-methoxyethanol | 20 ml | COCCO | C3H8O2
product | 2-methoxyethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCOC)=N | C18H20N2O2
